US09034898B2
Step 1.9 6-[4-fluoro-3-(methoxycarbonyl)phenyl]-3-phenyl-1H-pyrazolo[3,4-b]pyridine-4-carboxylic acid
10 mL of a solution of anhydrous hydrogen chloride in dioxane (4 M) are added to a solution of 6-[4-fluoro-3-(methoxycarbonyl)phenyl]-3-phenyl-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-b]pyridine-4-carboxylic acid (2.0 g/4.20 mmol) in 35 mL of DCM. The solution is stirred at ambient temperature for 15 minutes and then run into water and extracted with EtOAc. The organic phase is washed with water and then with a saturated aqueous solution of NaCl, dried over sodium sulphate and concentrated to dryness to give 1.4 g of a pale yellow powder (yield: 86%).

reactant | hydrogen chloride | Cl | ClH
reactant | 6-[4-fluoro-3-(methoxycarbonyl)phenyl]-3-phenyl-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-b]pyridine-4-carboxylic acid | 4.20 mmol, 2.0 g | FC1=C(C=C(C=C1)C=1C=C(C2=C(N1)N(N=C2C2=CC=CC=C2)C2OCCCC2)C(=O)O)C(=O)OC | C26H22FN3O5
reactant | water | O | H2O
solvent | dioxane | 4 M | O1CCOCC1 | C4H8O2
solvent | DCM | 35 mL | C(Cl)Cl | CH2Cl2
product | 6-[4-fluoro-3-(methoxycarbonyl)phenyl]-3-phenyl-1H-pyrazolo[3,4-b]pyridine-4-carboxylic acid | 1.4 g, yield: 86% | FC1=C(C=C(C=C1)C=1C=C(C2=C(N1)NN=C2C2=CC=CC=C2)C(=O)O)C(=O)OC | C21H14FN3O4
